US05260323
N,N'-Diethylpyridine-2,5-dicarboxamide N-oxide
From 1 g of N,N'-diethylpyridine-2,5-dicarboxamide and 1.8 g of MCPBA.

reactant | N,N'-diethylpyridine-2,5-dicarboxamide | 1 g | C(C)NC(=O)C1=NC=C(C=C1)C(=O)NCC | C11H15N3O2
reactant | MCPBA | 1.8 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | N,N'-Diethylpyridine-2,5-dicarboxamide N-oxide | C(C)[NH+](C(=O)C1=NC=C(C=C1)C(=O)NCC)[O-] | C11H15N3O3
